US08058432B2
Synthesis of 5-(N-formyl-N-methylamino-methyl) isatoic anhydride
There was suspended, in 15.2 mL of N,N-dimethylformamide, 3.82 g of 1,1′-carbonyl-diimidazole (CDI) and the resulting suspension was cooled to 5° C. To this slurry, there was added 4.0 g of 2-amino-5-(N-formyl-N-methylamino-methyl)benzoic acid in two portions, followed by the stirring of the same for one hour. After the confirmation of the disappearance of the starting material by HPLC, seed crystals were added to the slurry while dropwise adding 40.3 mL of a 1M hydrochloric acid aqueous solution to separate out solid and the resulting solid was isolated through filtration under reduced pressure. After washing the solid with 120 mL of water, it was dried at 70° C. for 13 hours under reduced pressure to thus give 3.20 g of the title compound as a white solid.

reactant | 1,1′-carbonyl-diimidazole | 3.82 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-amino-5-(N-formyl-N-methylamino-methyl)benzoic acid | 4.0 g | NC1=C(C(=O)O)C=C(C=C1)CN(C)C=O | C10H12N2O3
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | N,N-dimethylformamide | 15.2 mL | CN(C=O)C | C3H7NO
product | 5-(N-formyl-N-methylamino-methyl) isatoic anhydride | C(=O)N(C)CC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C11H10N2O4
